US07037624B2
4-Phenylsulfanyl-[1,3]dioxolan-2-one) was dissolved in methanol, and OXONE® was added. The resulting mixture was agitated at room temperature for 5 minutes and water was added. The obtained reaction mixture was agitated at room temperature for 12 hours. From the agitated reaction mixture, methanol was removed using decompression distillation and the resulting product was extracted using methylene chloride. The extracted organic solvent layer was again extracted using water, moisture was removed using magnesium sulfate, and then organic solvent was removed using decompression distillation. Using silica gel chromatography, separation and purification were performed to obtain a pure target product, 4-benzenesulfonyl-[1,3]dioxolan-2-one.

reactant | 4-Phenylsulfanyl-[1,3]dioxolan-2-one | C1(=CC=CC=C1)SC1OC(OC1)=O | C9H8O3S
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-benzenesulfonyl-[1,3]dioxolan-2-one | C1(=CC=CC=C1)S(=O)(=O)C1OC(OC1)=O | C9H8O5S
